Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with GERD presenting with 
headache, polyuria, and polydipsia.

The patient reports that his symptoms began about one year ago, 
when he first developed watery diarrhea. He reports that he has 
multiple, watery, non-bloody bowel movements per day. Beginning 
about 6 months prior to admission, he noticed increased thirst 
and urination. He tells me that he drinks about 10 24-oz bottles 
of water per day. He wakes up intermittently at night to drink 
water; the urge to urinate is not what wakes him. He denies any 
paroxysms of palpitations or diaphoresis. 

He also began to experience intermittent occipital headaches 
associated with blurred vision. His headaches have becomes more 
frequent and more intense over the past few months, and he now 
experiences them daily. His episodes of headaches seems to 
correlate with elevated blood pressure. He also notes that he 
experienced left-sided chest discomfort today.

He reports that also his mouth and eyes have become extremely 
dry. He saw an ophthalmologist regarding his dry eyes and was 
prescribed artificial tears but this did not help. No joint 
symptoms.

He saw his PCP, who is an endocrinologist. His PCP ___ 
24-hour urine collection, which showed 9.3L urine output and he 
consumed about 10 L of water/fluids during the day. He was also 
found to have elevated blood pressure (190/120) and was started 
on amlodipine. Evaluation was also sent for secondary causes of 
hypertension including renin and aldosterone (pending).
A1c was 5.7%, TSH 4.2, random cortisol 7.2. The patient tells me 
that at his physical a year ago his blood pressure was normal.

The patient has found that alcohol worsens his symptoms so he 
has discontinued this. He takes only omeprazole for severe 
heartburn; no other medications or supplements. He does not take 
diuretics. He had a concussion when he was ___ after falling from 
a roof. 

The patient initially presented to ___. There, his blood 
pressure was 160/101. Labs notable for CBC, BMP wnl. AST 56, ALT 
88, AP 70, Tb 0.6. Urinalysis with Serum osm 277, UOsm 490, UNa 
125. No glucose or ketones in urine. SS-A Ab, SS-B Anti, 
Endomysial IgA Ab, TTG-IgG, TTG-IgA all pending. TPO Ab 6 (wnl). 
He was given 1L NS and transferred to ___ for endocrinology 
consult.

In the ED, vitals: 98.3 ___ 18 99% RA 
Exam notable for:
- Skin: 1+ pedal edema bilaterally or lesions
- Neurologic exam: Cranial nerves II through XII intact, ___ 
strength in all extremities, sensation intact in all 
extremities, finger nose finger normal, gait normal, speech 
fluent
Labs notable for: WBC 12.6, AST 57, ALT 87, trop <0.01
Imaging: ___
Consults: Endocrinology
Patient given: Amlodipine 5 mg

On arrival to the floor, the patient reports thirst. He reports 
that his headache is improved.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative.
 
Past Medical History:
- Hypertension
- GERD
 
Social History:
___
Family History:
- Mother: ___
- ___ grandmother: ___ disease
 
Physical Exam:
VITALS: 98.1 17 /___ 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, ?lipoma on foot
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
Labs:
___ 06:57PM BLOOD WBC: 12.6* RBC: 5.28 Hgb: 16.5 Hct: 46.8
MCV: 89 MCH: 31.3 MCHC: 35.3 RDW: 12.2 RDWSD: 39.___ 
___ 06:57PM BLOOD Neuts: 61.1 Lymphs: ___ Monos: 5.1 Eos:
2.0 Baso: 0.6 Im ___: 0.3 AbsNeut: 7.68* AbsLymp: 3.89* 
AbsMono:
0.64 AbsEos: 0.25 AbsBaso: 0.07 
___ 06:57PM BLOOD Glucose: 107* UreaN: 13 Creat: 1.1 Na: 
141
K: 4.5 Cl: 103 HCO3: 25 AnGap: 13 
___ 06:57PM BLOOD ALT: 87* AST: 57* AlkPhos: 72 TotBili: 
0.8

___ 06:57PM BLOOD cTropnT: <0.01 

Micro:
- Urine culture (___): pending

Imaging:
- NCHCT (___): No acute intracranial process.

- EKG (___): Reviewed me by. NSR, LAFB, no acute ischemic
changes.
 
Brief Hospital Course:
___ man with GERD presenting with headache, polyuria, 
and polydipsia.

ACUTE/ACTIVE PROBLEMS:
# Polyuria
# Polydipsia: 
   Mr. ___ presented with several months of progressively 
worsening polyuria and polydipsia. Extensive w/u prior to 
admission included A1c 5.7%.  24-hour urine collection performed 
notable for 10L consumed and 9L urinated. Urine studies notable 
for SOsm 277, UOsm 490, UNa 125.  
   Increase thirst would occur ___ hypovolemia or increased 
serum osmolality - neither of which seems to be the case.  If 
anything, he is hypertensive and serum osmolality was low normal 
at OSH.  He also describes that his urine output decreases and 
becomes increasingly dark - whenever he stops drinking fluids.  
This would argue against DI (either central or nephrogenic).  
     Overall, it is difficult to provide a unifying diagnosis 
for his polyuria, hypertension, and diarrhea.  Suspect that his 
ocular dryness is due to dehydration rather than primary 
rheumatologic disorder. Regarding his diarrhea, could consider 
other endocrine disorders including gastrinoma, VIPoma, or 
carcinoid, although these would not explain his other symptoms 
and he has no evidence of MEN.
     Endocrinology was consulted and the decision was to trial a 
short 4 hr water deprivation test.  Urine sodium, osmolality, 
specific gravity (along with blood serum sodium/osmolality) 
after the deprivation test.   The results are presently pending 
and can be followed up with the endocrinologist.  He can 
otherwise continue to drink to thirst.  
     If there is evidence of central DI, then Ms. ___ may 
benefit from brain MRI for further eval, but this can evaluated 
as outpt.  

# Hypertensive urgency/emergency: Patient with intermittent
headaches associated with hypertension. NCHCT without acute
process. EKG without acute ischemic changes; troponin <0.01.
Although unlikely, given apparent paroxysms of hypertension
associated with headaches, would consider further evaluation for
pheochromocytoma, as well as other causes of secondary
hypertension.  He can follow-up with PRA/aldosterone (BID-N).  
   He was treated with amlodipine with good response.  He had no 
further episodes of hypertension while on this medication. 

# Transaminitis: Noted to have mild transaminitis on admission.
HBsAg and HCV Ab negative (BID-N). ___ be secondary to NAFLD. 
Trended LFTs

# Leukocytosis: Patient is afebrile without signs or symptoms of
infection. 

# Hyperlipidemia: Patient noted on outpatient labs to have ___
302, TChol 231, LDL 236. Transitional issue: lifestyle 
modification/lipid-lowering therapy

CHRONIC/STABLE PROBLEMS:
# GERD:
- Continue omeprazole

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Regular
# Functional status: Activity as tolerated
# Bowel Function: As needed
# Lines/Tubes/Drains: PIV
# Precautions: None
# VTE prophylaxis: Ambulation
# Consulting Services: Endocrinology
# Contacts/HCP/Surrogate and Communication: See OMR
# Code Status/Advance Care Planning: Full presumed
# Disposition: 
- Anticipate discharge to: Home today. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 10 mg 0.5 (One half) capsule(s) by mouth once a 
day Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polyuria/polydypsia
HTN
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

    It was a pleasure looking after you.  As you know, you were 
referred here from ___ for workup of hypertension (high 
blood pressure) and persistent thirst.   Extensive workup of 
this had been done and revealed that you do indeed consume large 
amounts of the fluid, although it is unclear yet as to why this 
is.
   During this hospitalization, you underwent a fluid/water 
deprivation test ___ hours) to assess your bodies ability to 
produce a hormone called ADH (a hormone which concentrates 
urine, enables your body to retain water, and thus prevents you 
from developing thirst).  The results are at present pending and 
will be followed up by the endocrinology team.
    You will be notified of your test results and follow-up 
plans.

  We wish you well and good health.

Your ___ team
 
Followup Instructions:
___